US07799894B2
(1) Synthesis of N-4-nitrophenyl-10-aminodibenzo(A,C)phenazine
While agitating 10.0 g (34 mmol) of 10-aminodibenzo(A,C)phenazine, 4.8 g (34 mmol) of 4-fluoronitrobenzene and 500 ml of dimethylsulfoxide, 19.4 g (173 mmol) of t-butoxy potassium was gently added. After completion of the addition, the reaction container was charged with nitrogen, followed by agitation at room temperature for 24 hours. After completion of the reaction, 500 ml of water was added while cooling, after which the reaction solution was filtered to obtain a filtration residue. The thus obtained residue was washed with methanol to obtain the intended product.

reactant | 10-aminodibenzo(A,C)phenazine | 34 mmol, 10.0 g | NC1=C2N=C3C4=C(C5=C(C3=NC2=CC=C1)C=CC=C5)C=CC=C4 | C20H13N3
reactant | 4-fluoronitrobenzene | 34 mmol, 4.8 g | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
reactant | dimethylsulfoxide | 500 ml | CS(=O)C | C2H6OS
reactant | t-butoxy potassium | 173 mmol, 19.4 g | C(C)(C)(C)O[K]
solvent | water | 500 ml | O | H2O
product | N-4-nitrophenyl-10-aminodibenzo(A,C)phenazine | [N+](=O)([O-])C1=CC=C(C=C1)N1C=2C3=C(C4=C(C2NC2=CC=CC(=C12)N)C=CC=C4)C=CC=C3 | C26H18N4O2
